US08835472B2
N-{2-[4-(4-Propoxy-phenylethynyl)-phenyl]-propyl}-acetamide
To 0.12 g (0.41 mmol) 2-[4-(4-propoxy-phenylethynyl)-phenyl]-propylamine (I65) in 5.0 mL DCM are consecutively added 0.14 mL (1.02 mmol) TEA and 34.9 μL (0.49 mmol) acetyl chloride. The reaction mixture is stirred at r.t. for 3 h. The solvent is removed in vacuo and the residue is purified by HPLC (MeOH/H2O/NH3).

reactant | 2-[4-(4-propoxy-phenylethynyl)-phenyl]-propylamine | 0.41 mmol, 0.12 g | C(CC)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(CN)C | C20H23NO
reactant | acetyl chloride | 0.49 mmol, 34.9 μL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[4-(4-Propoxy-phenylethynyl)-phenyl]-propyl}-acetamide | C(CC)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(CNC(C)=O)C | C22H25NO2
